* C:\Users\user\Documents\projekt.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 0 N001 +Vin -Vin N003 OPA132 ;§pnba 1)2)3)4)5
V1 0 -Vin_P 36
V2 +Vin_P 0 36
R2 N002 N001 0.5
R1 N001 N006 2k
X§U2 N010 N005 +Vin -Vin N005 OPA132 ;§pnba 1)2)3)4)5
R7 N010 N004 6.8k
C1 N010 0 1n
C2 N005 N004 2.2n
R5 N004 N003 3.9k
X§U3 N009 N006 +Vin -Vin N006 OPA132 ;§pnba 1)2)3)4)5
V5 N009 0 SINE(0 1 1k 0 0 0)
X§U4 N011 N008 +Vin -Vin_P N008 OPA132 ;§pnba 1)2)3)4)5
C3 N007 N005 220n
C4 N011 N007 120n
R6 N011 0 3.9k
R11 N008 N007 1.8k
X§U5 N008 N013 N012 +Vin_P -Vin_P N014 0 LM3886 ;§pnba Vin+)Vin-)OUT)V+)V-)mute)GND
R16 0 N012 8
R18 N014 -Vin_P 100
R17 N012 N013 2k
R4 N013 0 366.9
V3 0 -Vin 12
V4 +Vin 0 12
R3 N003 N002 10k
.tran 0 .02 .018 .001
* .ac dec 10 1 100k
.lib C:\Users\user\Documents\LTspice\LM3886.lib
.lib C:\Users\user\Documents\New folder\opa132.lib
.backanno
.end
